US20010023257A1
a) 1,3a,4,6,7,7a-hexahydro-4,7-methanoinden-5-one oxime
10 g of bis-(6-chloro-3a,4,5,6,7,7a-hexahydro-1H-4,7-methanoinden-5-yl)-diazene N,N′-dioxide from amine 1, a1) were suspended in 75 ml of isoamyl alcohol, and the suspension was slowly heated to reflux with stirring. Once everything had been dissolved, the mixture was cooled to room temperature using an ice bath, and 25 ml of dry ethanol, 12.5 ml of glacial acetic acid, and 6 g of zinc dust were added. The mixture was kept at reflux for 1 hour and then cooled, the zinc was filtered off, and the ethanol was evaporated under reduced pressure. The residue was stirred into 300 ml of ether and allowed to stand overnight. The ether was then decanted off from the precipitate and washed three times with sodium carbonate solution and twice with water. The organic phase was dried over magnesium sulfate and filtered, and the filtrate was then concentrated. Subsequent distillation under reduced pressure gave 3.3 g of an oil which was directly reacted further.

reactant | bis-(6-chloro-3a,4,5,6,7,7a-hexahydro-1H-4,7-methanoinden-5-yl)-diazene N,N′-dioxide | 10 g | ClC1C(C2C3C=CCC3C1C2)[N+](=[N+](C2C1C3C=CCC3C(C2Cl)C1)[O-])[O-] | C20H24Cl2N2O2
reactant | ethanol | 25 ml | C(C)O | C2H6O
reactant | acetic acid | 12.5 ml | C(C)(=O)O | C2H4O2
solvent | isoamyl alcohol | 75 ml | C(CC(C)C)O | C5H12O
catalyst | zinc | 6 g | [Zn] | Zn
product | 1,3a,4,6,7,7a-hexahydro-4,7-methanoinden-5-one oxime | 3.3 g | C1C=CC2C3C(CC(C12)C3)=NO | C10H13NO
